US06649657B2
LiAlH4 (1M in Et2O, 10 mL, 10 mmol) was slowly added to a solution of 3-(3,5-dichlorophenyl)-propionic acid (2.19 g, 10 mmol) in Et2O (50 mL). The reaction was heated at reflux for 2 h. The reaction was cooled to room temperature and 2 N NaOH (1 mL) and aqueous NH4Cl (satd., 3 mL) as room temperature and 2 N NaOH (1 mL) and aqueous NH4Cl (satd., 3 mL) as over MgSO4, filtered, and concentrated. The product was purified by flash chromatography (25% EtOAc/hexanes) to afford 3-(3,5-dichlorophenyl)-propanol (640 mg). 1H NMR (400 MHz, CDCl3) δ 7.17 (m, 1H), 7.07 (m, 2H), 3.64 (m, 2H), 2.65 (t, 2H), 1.84 (m, 2H).

reactant | LiAlH4 | 10 mmol, 1M, 10 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(3,5-dichlorophenyl)-propionic acid | 10 mmol, 2.19 g | ClC=1C=C(C=C(C1)Cl)CCC(=O)O | C9H8Cl2O2
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 3-(3,5-dichlorophenyl)-propanol | 640 mg | ClC=1C=C(C=C(C1)Cl)CCCO | C9H10Cl2O
